### PR TITLE
[Merged by Bors] - feat(Mathlib/Tactic/TypeCheck): add `type_check` tactic

### PR DESCRIPTION
**Pull request by j-loreaux**
Lean 3 version: https://github.com/leanprover-community/lean/blob/master/library/init/meta/interactive.lean#L1664

### CODE REVIEW

**Comment by arthurpaulino** [comment]
Gotta add it to the `Mathlib.lean` import list 👍🏼

File: test/TypeCheck.lean [hunk 1]
```diff
@@ -0,0 +1,11 @@
...
+
+example : True := by {
+  type_check Nat; -- Type
+  type_check Bool.true; -- Bool
+  type_check nat_lit 1; -- Nat
+  type_check (1 : Nat); -- Nat
+  type_check (True : _); -- Prop
+  type_check ∀ x y : Nat, x = y; -- Prop
+  type_check fun x : Nat => 2 * x + 1; -- Nat -> Nat
+  exact True.intro }
```
Comment (digama0) [inline test/TypeCheck.lean:11]:
```suggestion
example : True := by
  type_check Nat -- Type
  type_check Bool.true -- Bool
  type_check nat_lit 1 -- Nat
  type_check (1 : Nat) -- Nat
  type_check (True : _) -- Prop
  type_check ∀ x y : Nat, x = y -- Prop
  type_check fun x : Nat => 2 * x + 1 -- Nat -> Nat
  trivial
```

Comment (digama0) [reply test/TypeCheck.lean:11]: This needs some type check error tests as well, using `fail_if_success`.

Comment (semorrison) [reply test/TypeCheck.lean]: Marking as unresolved, as we still need to error tests.

File: Mathlib/Tactic/TypeCheck.lean [hunk 2]
```diff
@@ -0,0 +1,9 @@
+import Lean.Elab.Tactic.Basic
+
+syntax (name := typeCheck) "type_check " term : tactic
+
```
Comment (semorrison) [inline Mathlib/Tactic/TypeCheck.lean:4]: The `elab` command below will create the syntax for you. (It's only with `elab_rules` that you need to specify the general syntax explicitly first.) Removing this will avoid the linting error in CI.
```suggestion
```

Comment (j-loreaux) [reply Mathlib/Tactic/TypeCheck.lean:4]: Aha, I was wondering how to fix that linting error. Thanks for the info!

File: test/TypeCheck.lean (hunk 1 above)
Comment (j-loreaux) [reply test/TypeCheck.lean]: I'm not sure I understand, can you explain in more detail what we need?

Comment (digama0) [reply test/TypeCheck.lean]: e.g. `fail_if_success type_check 2 + "hi"`

Comment (semorrison) [reply test/TypeCheck.lean]: #334 has an alternative `expect_failure` tactic which should give you what you want here. We'll try to merge that soon?

Comment (semorrison) [reply test/TypeCheck.lean]: Oh dear, `type_check 2 + "hi"` fails correctly with `failed to synthesize instance HAdd Nat String ?m.160`, but `expect_failure type_check 2 + "hi"` (after merging master into this PR) claims `tactic sequence succeeded`.

Comment (digama0) [reply test/TypeCheck.lean]: This is a bug in `fail_if_success`/`success_if_fail`/`expect_failure` (the synonyms keep piling up...), not `type_check`.

Comment (gebner) [reply test/TypeCheck.lean]: > could you suggest how we should be testing this?

I'm not 100% sure what `type_check` is supposed to do, but I guess it's supposed to find bugs in proofs produced by tactics.  So I would suggest to test a tactic or elaborator that produces a term which does not type check.  Such as this one:

```lean
/-- A term where `inferType` returns `Prop`, but which does not type check. -/
elab "wrong" : term =>
  return Lean.mkApp2 (.const ``id [.zero]) (.sort .zero) (.app (.sort .zero) (.sort .zero))
```

I have committed this elaborator and a failing test case.

File: test/TypeCheck.lean [hunk 3]
```diff
@@ -0,0 +1,16 @@
...
+
+example : True := by
+  type_check Nat -- Type
+  type_check Bool.true -- Bool
+  type_check nat_lit 1 -- Nat
+  type_check (1 : Nat) -- Nat
+  type_check (True : _) -- Prop
+  type_check ∀ x y : Nat, x = y -- Prop
+  type_check fun x : Nat => 2 * x + 1 -- Nat -> Nat
+  type_check wrong
```
Comment (gebner) [inline test/TypeCheck.lean:15]:
```suggestion
  fail_if_success type_check wrong
```

**Comment by gebner** [comment]
Thank!

bors r+
